US07737166B2
2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile (I-22)
(S)-(−)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (180 mg, 0.29 mmol) was dissolved in toluene (8 ml) under heat, cooled to room temperature, then palladium(II) acetate (43 mg, 0.193 mmol) was added, followed by stirring for 5 minutes. 7-Bromo-2-tert-butyl-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile (I-18) (400 mg, 0.966 mmol), (3S)-3-(dimethylamino)pyrrolidine (306 μl, 2.42 mmol), sodium tert-butoxide (260 mg, 2.71 mmol), toluene (5 ml) were successively put into it, followed by stirring at 80° C. for 13 hours. After cooling, brine (10 ml), saturated sodium bicarbonate water (25 ml) were added to the reaction liquid, the product was extracted with chloroform (25 ml×2). The organic layer was washed with saturated brine (10 ml×2), then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified twice by silica gel column chromatography (chloroform:methanol=100:1) to obtain a fraction containing the entitled compound (35.1 mg) as a dark brown solid. Not further purified, this was used in the next reaction.

reactant | (S)-(−)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.29 mmol, 180 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 7-Bromo-2-tert-butyl-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile | 0.966 mmol, 400 mg | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C2=CC(=CC=C2)[N+](=O)[O-] | C19H16BrN3O3
reactant | (3S)-3-(dimethylamino)pyrrolidine | 2.42 mmol, 306 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium tert-butoxide | 2.71 mmol, 260 mg | CC(C)([O-])C.[Na+]
reactant | sodium bicarbonate water | 25 ml | O.C([O-])(O)=O.[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | 10 ml | [Cl-].[Na+].O
catalyst | palladium(II) acetate | 0.193 mmol, 43 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC(=CC=C2)[N+](=O)[O-])C)C#N | C25H29N5O3
